US05635510
43.1 Synthesis of 2-[3-(3,4-dichloro-phenyl)-1-(3-isopropoxy-phenacyl)-pyrrolidin-3-yl]-ethanol
Prepare by the method of example 3.1 using 2-[3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethanol (2 mmol) and 3-isopropoxy-phenacyl chloride (2 mmol). Chromatograph on silica gel to give the title compound. Rf =0.44 (silica gel, 5% methanol/dichloromethane).

reactant | 2-[3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethanol | 2 mmol | ClC=1C=C(C=CC1Cl)C1(CNCC1)CCO | C12H15Cl2NO
reactant | 3-isopropoxy-phenacyl chloride | 2 mmol | C(C)(C)OC=1C=C(C(CCl)=O)C=CC1 | C11H13ClO2
product | 2-[3-(3,4-dichloro-phenyl)-1-(3-isopropoxy-phenacyl)-pyrrolidin-3-yl]-ethanol | ClC=1C=C(C=CC1Cl)C1(CN(CC1)CC(=O)C1=CC(=CC=C1)OC(C)C)CCO | C23H27Cl2NO3
